US06846835B2
Synthesis of t-butyl 4-(3-ethoxy-3-oxopropyl)tetrahydropyridine-1(2H)-carboxylate
To a solution of 1.0 g of t-butyl 4-(3-ethoxy-3-oxoprop-1-enyl)-tetrahydropyridine-1(2H)-carboxylate (cf. WO9501336) in 20 ml of ethanol, 300 mg of 10% palladium-on-carbon catalyst, and stirred for 3 hours in a hydrogen atmosphere, at ambient temperature and pressure. After filtering the catalyst off, the solvent was distilled off under reduced pressure to provide 700 mg of the title compound.

reactant | t-butyl 4-(3-ethoxy-3-oxoprop-1-enyl)-tetrahydropyridine-1(2H)-carboxylate | 1.0 g | C(C)OC(C=CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H25NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 300 mg | [Pd] | Pd
product | t-butyl 4-(3-ethoxy-3-oxopropyl)tetrahydropyridine-1(2H)-carboxylate | 700 mg | C(C)OC(CCC1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H27NO4
